US08563735B2
tert-butyl 4-chloro-3-formyl-5,6-dihydropyridine-1(2H)-carboxylate
To N,N-dimethylformamide (3.87 mL) at 0° C., phosphorus oxychloride (3.73 mL) was added dropwise, maintaining the temperature below 5° C. The resulting mixture was diluted with dichloromethane (15 mL) and stirred at room temperature for 1.5 hours. The reaction was then cooled in an ice bath. tert-Butyl 4-oxopiperidine-1-carboxylate (4.98 g) was added as a solution in dichloromethane (20 mL) and the reaction was stirred at room temperature for 1 hour. The reaction mixture was poured over ice and solid sodium acetate, stirred for 15 minutes, and extracted with dichloromethane. The extracts were washed thoroughly with water and with brine, dried over MgSO4, filtered, and concentrated to obtain the title compound.

reactant | N,N-dimethylformamide | 3.87 mL | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 3.73 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | tert-Butyl 4-oxopiperidine-1-carboxylate | 4.98 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-butyl 4-chloro-3-formyl-5,6-dihydropyridine-1(2H)-carboxylate | ClC1=C(CN(CC1)C(=O)OC(C)(C)C)C=O | C11H16ClNO3
